US08404866B2
(±)-N-Carbamoyl-trans-3-(4-phenoxybenzenesulfonamido)-4-mercaptopyrrolidine. To a stirred solution of 1.5 M HCl in ethyl acetate (5 mL) was added (±)-N-Boc-trans-3-(4-phenoxybenzenesulfonamido)-4-tert-butylmercaptopyrrolidine (155 mg, 0.3 mmol) and stirring was continued at room temperature until no starting material was detected by TLC (50% ethyl acetate in hexane). The solvent was evaporated under reduced pressure and the residue was dissolved in CH2Cl2. The solution was cooled to 0° C. and triethylamine (46 μl, 33 mmol) and N-trimethylsilyl isocyanate (TMSNCO) (100 μL, 0.74 mmol) were added successively. The solution was stirred at room temperature overnight. The reaction mixture was extracted with water and sat. brine, and was dried over Na2SO4 and filtered. The solvent was evaporated and the residue was purified by flash chromatography (5% MeOH in ethyl acetate) to give (±)-N-carbamoyl-trans-3-(4-phenoxybenzenesulfonamido)-4-tert-butylmercaptopyrrolidine (130 mg, 96%): mp 132-133° C.; 1H NMR (300 MHz, CD3OD) δ 7.85 (d, J=9, 2H), 7.44 (t, J=8, 2H), 7.24 (t, J=8, 1H), 7.10 (m, 2H), 7.09 (d, J=9, 2H), 3.86 (m, 1H), 3.59 (m, 2H) 3.27 (m, 2H), 3.15 (m, 1H), 1.29 (s, 9H); MS (ESI) m/e 449.2 (M+); HRMS (ESI) calcd for C21H27N3O4S2Na+ 472.1322. found 472.1326.

reactant | (±)-N-Carbamoyl-trans-3-(4-phenoxybenzenesulfonamido)-4-mercaptopyrrolidine | C(N)(=O)N1C[C@H]([C@@H](C1)S)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C17H19N3O4S2
reactant | HCl | 1.5 M | Cl | ClH
reactant | (±)-N-Boc-trans-3-(4-phenoxybenzenesulfonamido)-4-tert-butylmercaptopyrrolidine | 0.3 mmol, 155 mg | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)SC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H34N2O5S2
reactant | triethylamine | 33 mmol, 46 μl | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | (±)-N-carbamoyl-trans-3-(4-phenoxybenzenesulfonamido)-4-tert-butylmercaptopyrrolidine | 130 mg, 96% | C(N)(=O)N1C[C@H]([C@@H](C1)SC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C21H27N3O4S2
